US05476933
5,6,7,8-Tetrahydro-6, 7-dichloro-5-ethyl-2-methoxynaphthalene-1,4-dione.
To a stirred solution of 5,8-dihydro-5-ethyl-2-methoxynaphthalene1,4-dione (2.00 g, 9.16 mmol) in CHCl3 (100 mL, passed through silica gel prior to use), a solution of Cl2 in CCl4 (8.3 mL, ~1.1M) was added dropwise over a 5 min period. After addition, the reaction was allowed to stir an additional 30 min at 25° C. Analysis (NMR) indicated partial consumption of the starting material. An additional portion of the Cl2 solution (4 mL) was added. The reaction was allowed to stir at 25° C. for 1 hr. The analysis now indicated the absence of starting material. The solvent was removed in vacuo to give an orange syrup. The addition of 95% EtOH (10 mL) and steam bath warming prompted solidification. The solvent was removed in vacuo to given an orange solid. Crystallization from 95% EtOH (dissolved in boiling solvent (10 mL), hot filtered, allowed to cool to rt) yielded a yellow granular solid (1.37 g, 52%, pure by TLC (5% EtOAc/95% CHCl3), approximately a 2:1 mixture of diastereomers by NMR); mp 115°-118° C.; 1H NMR (CDCl3) δ1.03 (overlapping t, 3H), 1.90 (m, 2H), 2.93 (m, 1H), 3.27 (m, 2H), 3.82 (s, 3H), 4.40 (m, 2H), 5.90 and 5.92 (overlapping s, 1H); IR (KBr) 2970, 2938, 1675, 1652, 1633, 1609, 1226, 855 cm-1.

reactant | 5,8-dihydro-5-ethyl-2-methoxynaphthalene1,4-dione | 9.16 mmol, 2.00 g | C(C)C1C=2C(C=C(C(C2CC=C1)=O)OC)=O | C13H14O3
reactant | Cl2 | ClCl | Cl2
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | KBr | [K+].[Br-]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | ~1.1M, 8.3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5,6,7,8-Tetrahydro-6, 7-dichloro-5-ethyl-2-methoxynaphthalene-1,4-dione | ClC1C(C=2C(C=C(C(C2CC1Cl)=O)OC)=O)CC | C13H14Cl2O3
